US04435404
Into 200 ml of N,N-dimethylformamide and 50 ml of water was added 16 g of 6-hydroxycarbostyril and 17 g of K2CO3, while the mixture was stirred at a room temperature, 31 g of N-cyclohexyl-N-(2-hydroxyethyl)-γ-bromocrotonamide was added dropwise. After the addition the reaction mixture was stirred for 3 hours and was concentrated. To the residue thus obtained 500 ml of chloroform was added and washed with water, a dilueted NaOH aqueous solution and water. The organic layer was concentrated. The residue thus obtained was recrystallized from methanol-water to obtain 27 g of 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]-2-propenyloxy}-carbostyril as in the form of colorless needle-like crystals. The chemical structure of this substance was identified by the NMR spectrum and the data of elementary analysis.

reactant | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
reactant | 6-hydroxycarbostyril | 16 g | OC=1C=C2C=CC(NC2=CC1)=O | C9H7NO2
reactant | K2CO3 | 17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-cyclohexyl-N-(2-hydroxyethyl)-γ-bromocrotonamide | 31 g | C1(CCCCC1)N(C(\C=C\CBr)=O)CCO | C12H20BrNO2
solvent | water | 50 ml | O | H2O
product | 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]-2-propenyloxy}-carbostyril | 27 g | OCCN(C(=O)C=CCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C21H26N2O4
